US04767760
To a stirred and cooled (5°-10° C.) mixture of 5.6 parts of 4-amino-α-(4-chlorophenyl)-2-methoxybenzeneacetonitrile, 6.2 parts of concentrated hydrochloric acid and 50 parts of acetic acid is added dropwise, during a 15 minutes period, a solution of 1.25 parts of sodium nitrite in 10 parts of water at about 10° C. Upon completion, the whole is stirred for 60 minutes and then 3.6 parts of anhydrous sodium acetate and 2.8 parts of ethyl (2-cyanoacetyl)carbamate are added and stirring is continued for 2 hours at room temperature. The reaction mixture is poured into 250 parts of water. The product is filtered off, washed with water and dissolved in a mixture of trichloromethane and methanol (90:10 by volume). The organic layer is dried, filtered and evaporated. The residue is purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated in vacuo, yielding ethyl [2-[[4-[(4-chlorophenyl)cyanomethyl]-3-methoxyphenyl]hydrazono]-2-cyanoacetyl]carbamate.

reactant | 4-amino-α-(4-chlorophenyl)-2-methoxybenzeneacetonitrile | NC1=CC(=C(C=C1)C(C#N)C1=CC=C(C=C1)Cl)OC | C15H13ClN2O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | ethyl (2-cyanoacetyl)carbamate | C(#N)CC(=O)NC(OCC)=O | C6H8N2O3
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl [2-[[4-[(4-chlorophenyl)cyanomethyl]-3-methoxyphenyl]hydrazono]-2-cyanoacetyl]carbamate | ClC1=CC=C(C=C1)C(C1=C(C=C(C=C1)NN=C(C(=O)NC(OCC)=O)C#N)OC)C#N | C21H18ClN5O4
